US07718683B2
2-benzyloxycarbonylamino-5-chloro-benzoic acid methyl ester (3 g, 9.4 mmol) was dissolved in 30 mL ethanol. Hydrazine hydrate (1.5 mL, 30.0 mmol) was added and the resultant solution was heated at reflux under a nitrogen atmosphere for two hours, at which LCMS analysis showed complete conversion of the ester as well as the removal of the CBz protecting group. The reaction mixture was subsequently concentrated in vacuo to provide 1.6 g of 2-amino-5-chloro-benzoic acid hydrazide (light brown solid, 92% yield): HPLC retention time=2.21; MS (ES) M+H expected 186.0, found 186.0.

reactant | 2-benzyloxycarbonylamino-5-chloro-benzoic acid methyl ester | 9.4 mmol, 3 g | COC(C1=C(C=CC(=C1)Cl)NC(=O)OCC1=CC=CC=C1)=O | C16H14ClNO4
reactant | Hydrazine hydrate | 30.0 mmol, 1.5 mL | O.NN
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-amino-5-chloro-benzoic acid hydrazide | 1.6 g, 92% yield | NC1=C(C(=O)NN)C=C(C=C1)Cl | C7H8ClN3O
